US08455522B2
Step 4: synthesis of 6-Chloro-3-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one
A mixture of 5-Bromo-6-chloro-3-methyl-3H-benzooxazol-2-one (1 g, 3.81 mmol), 4,4,5,5,4′,4′,5′,5′-Octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (0.967 g, 3.81 mmol), potassium acetate (0.748 g, 7.62 mmol) and PdCl2(dppf).CH2Cl2 adduct (0.156 g, 0.190 mmol) in 1,4-Dioxane (10 mL, dry) was heated to 80° C. for 4 hr. The mixture was concentrated, and the residue was purified by flash column (Ethyl Acetate-Heptanes, v/v, 10%-20%) and yielded colorless solid (460 mg). ESI-MS m/z: 310.3 [M+1]+, Retention time 1.47 NMR (400.3 MHz, CDCl3): δ 1.55 (s, 12H), 3.57 (s, 3H), 7.40 (s, 1H), 7.43 (s, 1H).

reactant | 5-Bromo-6-chloro-3-methyl-3H-benzooxazol-2-one | 3.81 mmol, 1 g | BrC=1C(=CC2=C(N(C(O2)=O)C)C1)Cl | C8H5BrClNO2
reactant | 4,4,5,5,4′,4′,5′,5′-Octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 3.81 mmol, 0.967 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 7.62 mmol, 0.748 g | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.190 mmol, 0.156 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-Dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-Chloro-3-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one | 460 mg | ClC1=CC2=C(N(C(O2)=O)C)C=C1B1OC(C(O1)(C)C)(C)C | C14H17BClNO4
